US04565815
2-(4-imidazolylethylamino)-4-oxo-1H,3H-pyrazolo(1,5-a)-1,3,5-triazine
A mixture of 135 mg of free histamine and 180 mg of 2-methylthio-4-oxo-3H-pyrazolo(1,5-a)-1,3,5-triazine in 10 ml of xylene is refluxed for 22 hrs. After evaporation of the solvent in vacuo, the pale pink residue is triturated with water and alcohol, filtered, washed with ether and dried to yield 120 mg of purified product. TLC (silica gel CHCl3 /MeOH/triethylamine=3:1:0-5) Rf=0.14.

reactant | histamine | 135 mg | NCCC1=CNC=N1 | C5H9N3
reactant | 2-methylthio-4-oxo-3H-pyrazolo(1,5-a)-1,3,5-triazine | 180 mg | CSC1=NC=2N(C(N1)=O)N=CC2 | C6H6N4OS
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-imidazolylethylamino)-4-oxo-1H,3H-pyrazolo(1,5-a)-1,3,5-triazine | 120 mg | N1C=NC(=C1)CCNC1NC=2N(C(N1)=O)N=CC2 | C10H13N7O
